US07728137B2
5-Fluoro-2-(tetrahydropyran-2-yloxy)benzeneboronic acid
48.6 g (2.00 mol) of magnesium and 510 g (1.85 mol) of 2-bromo-4-fluoro-1-(tetrahydropyran-2-yloxy)benzene in 1250 ml of THF were used to prepare a Grignard reagent. This Grignard reagent was slowly added dropwise at −78° C. to a mixture of 241.6 ml (2.00 mol) of trimethyl borate in 500 ml of THF. On completion of addition, the reaction mixture was allowed to warm to room temperature and was hydrolyzed by addition of 100 ml of saturated potassium carbonate solution and 1000 ml of water. The organic phase was washed with saturated sodium chloride, solution. (1×500 ml) and subsequently concentrated to dryness. The yield was 428.2 g (1.78 mol), and the product was obtained as a waxy solid which contained varying proportions of boronic anhydride and borinic acids and was used in the following stage without further purification.

reactant | magnesium | 2.00 mol, 48.6 g | [Mg] | Mg
reactant | 2-bromo-4-fluoro-1-(tetrahydropyran-2-yloxy)benzene | 1.85 mol, 510 g | BrC1=C(C=CC(=C1)F)OC1OCCCC1 | C11H12BrFO2
reactant | trimethyl borate | 2.00 mol, 241.6 ml | B(OC)(OC)OC | C3H9BO3
reactant | potassium carbonate | 100 ml | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 1250 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | water | 1000 ml | O | H2O
product | 5-Fluoro-2-(tetrahydropyran-2-yloxy)benzeneboronic acid | FC=1C=CC(=C(C1)B(O)O)OC1OCCCC1 | C11H14BFO4
